US05646173
A solution of 23.9 g of 4-thiochromanone, 30 ml of 3-buten-2-ol and 240 mg of p-toluenesulfonic acid in 30 ml of 2,2-dimethoxy-propane and 240 ml of anhydrous toluene was boiled under reflux for 20 hours. The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/diethyl ether 5:1). 15.3 g (48%) of (RS)-2-(2-buten-1-yl)-4-thiochromanone were obtained as a yellow oil.

reactant | 4-thiochromanone | 23.9 g | S1CCC(C2=CC=CC=C12)=O | C9H8OS
reactant | 3-buten-2-ol | 30 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 240 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 2,2-dimethoxy-propane | 30 ml | COC(C)(C)OC | C5H12O2
solvent | toluene | 240 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-2-(2-buten-1-yl)-4-thiochromanone | 15.3 g, 48% | C(C=CC)C1SC2=CC=CC=C2C(C1)=O | C13H14OS
